US07157487B2
(Step 3) Synthesis of methyl 4-((2S,4S)-1-(2-(2-chlorophenylamino)-6-benzoxazolylacetyl)-4-fluoro-2-pyrrolidinylmethoxy)benzoate
In DMF (5 ml), 2-(2-chlorophenylamino)-6-benzoxazolylacetic acid (303 mg, 1.0 mmol), methyl 4-((2S,4S)-4-fluoro-2-pyrrolidinylmethoxy)benzoate (253 mg, 1.0 mmol), EDC•HCl (288 mg, 1.5 mmol), HOBt (203 mg, 1.5 mmol) and triethylamine (0.70 ml, 5.0 mmol) were stirred at room temperature for 14 hours. The reaction mixture was poured in ice water (30 ml), followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 50 g), whereby from chloroform/acetone (10/1) eluate fractions, the title compound (360 mg, 67%) was obtained as a colorless amorphous substance.

reactant | 2-(2-chlorophenylamino)-6-benzoxazolylacetic acid | 1.0 mmol, 303 mg | ClC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)O | C15H11ClN2O3
reactant | methyl 4-((2S,4S)-4-fluoro-2-pyrrolidinylmethoxy)benzoate | 1.0 mmol, 253 mg | F[C@H]1C[C@H](NC1)COC1=CC=C(C(=O)OC)C=C1 | C13H16FNO3
reactant | EDC•HCl | 1.5 mmol, 288 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.5 mmol, 203 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 5.0 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-((2S,4S)-1-(2-(2-chlorophenylamino)-6-benzoxazolylacetyl)-4-fluoro-2-pyrrolidinylmethoxy)benzoate | 360 mg, 67% | ClC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](C[C@@H](C2)F)COC2=CC=C(C(=O)OC)C=C2 | C28H25ClFN3O5
